US05591762
4'-[[2-n-Propyl-4-methyl-6-[1-(2-methoxy-ethyl)-4,5-dimethylimidazol-2-yl]-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 146 from 4'-[[2-n-propyl-4-methyl-6-(4,5-dimethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl and N-(2-methoxy-ethyl)-formamide/2-methoxy-ethylamine.

reactant | 4'-[[2-n-propyl-4-methyl-6-(4,5-dimethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)C=2OC(=C(N2)C)C | C49H43N7O
reactant | N-(2-methoxy-ethyl)-formamide 2-methoxy-ethylamine | COCCNC=O.COCCN
product | 4'-[[2-n-Propyl-4-methyl-6-[1-(2-methoxy-ethyl)-4,5-dimethylimidazol-2-yl]-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)C=2N(C(=C(N2)C)C)CCOC | C33H36N8O
